US20010047019A1
A. Preparation of 5-Carboxymethyl-3-(2-methyl(ethyl)carbonylamino)pyrazole (XII)
A solution consisting of 398 mg of 5-carboxymethyl-3-aminopyrazole (synthesized as described above for the 5-ethyl analog, by use of MeOH rather than EtOH in the esterification) and 440 mL of pyridine in 5 ml of anhydrous dioxane was cooled to 0° C. To this solution was slowly added 621 mL of 2-methylpropanoyl chloride. The reaction was allowed to stir at room temperature for two hours, diluted with 25 ml of chloroform and extracted once against 15 ml of 1 M HCl followed by 15 ml of saturated NaHCO3. The organic layer was isolated and dried over MgSO4 and the solvent was removed under vacuum. The product was used in the next step without further purification.

reactant | 5-carboxymethyl-3-aminopyrazole | 398 mg | C(=O)(O)CC1=CC(=NN1)N | C5H7N3O2
reactant | MeOH | CO | CH4O
reactant | EtOH | CCO | C2H6O
reactant | 2-methylpropanoyl chloride | 621 mL | CC(C(=O)Cl)C | C4H7ClO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 440 mL | N1=CC=CC=C1 | C5H5N
product | 5-Carboxymethyl-3-(2-methyl(ethyl)carbonylamino)pyrazole | C(=O)(O)CC1=CC(=NN1)NC(=O)CCC | C9H13N3O3
